US07592457B2
3-(4-bromo-phenyl)-5,7-dichloro-3-methyl-1H-quinoline-2,4-dione
The objective compound was prepared by the same procedure for the example 1, using a 2-[2-(4-bromo-phenyl)-propionyl amino]-4,6-dichloro-benzoic acid methyl ester (400 mg, 0.93 mmol) and NaH (78 mg, 1.95 mmol) as a base instead of LiHMDS. After normal workup, the objective compound (60 mg, 18%) was obtained as white solid by a flash column chromatography (n-hexane:EtOAc=5:1): 1H NMR (200 MHz, CDCl3+CD3OD) δ 1.69 (s, 3H, CH3), 6.91-7.48 (m , 6H, ArH); m.p. 237-238° C.; MS(EI) m/e 397 [M+].

reactant | 2-[2-(4-bromo-phenyl)-propionyl amino]-4,6-dichloro-benzoic acid methyl ester | 0.93 mmol, 400 mg | COC(C1=C(C=C(C=C1Cl)Cl)NC(C(C)C1=CC=C(C=C1)Br)=O)=O | C17H14BrCl2NO3
reactant | NaH | 1.95 mmol, 78 mg | [H-].[Na+]
reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | n-hexane | CCCCCC | C6H14
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(4-bromo-phenyl)-5,7-dichloro-3-methyl-1H-quinoline-2,4-dione | 60 mg, 18% | BrC1=CC=C(C=C1)C1(C(NC2=CC(=CC(=C2C1=O)Cl)Cl)=O)C | C16H10BrCl2NO2
